US06413974B1
2-[Trans-(4-aminocyclohexyl)amino]-6-(3-iodobenzylamino)-9-cyclopentylpurine dihydrochloride
Dissolve 2,6-dichloro-9-cyclopentylpurine (620 mg, crude), 3-iodobenzylamine hydrochloride (810 mg, 3.00 mmol) and triethylamine (835 μL, 6.00 mmol) in dry ethanol (20 mL). Heat at reflux for 15 hours, cool, and filter the solid to give the title compound as a white solid (680 mg).

reactant | 2,6-dichloro-9-cyclopentylpurine | 620 mg | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 3-iodobenzylamine hydrochloride | 3.00 mmol, 810 mg | Cl.IC=1C=C(CN)C=CC1
reactant | triethylamine | 6.00 mmol, 835 μL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-[Trans-(4-aminocyclohexyl)amino]-6-(3-iodobenzylamino)-9-cyclopentylpurine dihydrochloride | 680 mg | Cl.Cl.N[C@@H]1CC[C@H](CC1)NC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCC1=CC(=CC=C1)I | InChI=1S/C23H30IN7.2ClH/c24-16-5-3-4-15(12-16)13-26-21-20-22(31(14-27-20)19-6-1-2-7-19)30-23(29-21)28-18-10-8-17(25)9-11-18;;/h3-5,12,14,17-19H,1-2,6-11,13,25H2,(H2,26,28,29,30);2*1H/t17-,18-;;
